US05981559
4 N Hydrogen chloride-ethyl acetate solution (50 ml) and dithiophosphate=O,O-diethyl (4.47 ml, 26.67 mmol) were added in that order to methyl 3-cyanomethoxybenzoate (5.00 g, 26.15 mmol), and the resulting solution was stirred at room temperature for 12 hours. Crystals precipitated in the reaction solution were collected by filtration and washed with diethyl ether to give methyl 3-thiocarbamoylmethoxybenzoate (4.60 g, 78%).

reactant | dithiophosphate | P(=S)([S-])([O-])[O-]
reactant | methyl 3-cyanomethoxybenzoate | 26.15 mmol, 5.00 g | C(#N)COC=1C=C(C(=O)OC)C=CC1 | C10H9NO3
solvent | Hydrogen chloride-ethyl acetate | 4 N, 50 ml | C(C)(=O)OCC.Cl
product | methyl 3-thiocarbamoylmethoxybenzoate | 4.60 g, 78% | C(N)(=S)COC=1C=C(C(=O)OC)C=CC1 | C10H11NO3S
